US06884868B1
A solution of 1-bromo-4-(4-bromobutoxy)benzene (3.05 g) in methanol (30 ml) was treated with 28% sodium methoxide in methanol (2.43 ml), and the solution was refluxed for 5 hours. After cooling, the reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was washed with brine. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (10:1 hexane-ethyl acetate elution) to give 1-bromo-4-(4-methoxybutoxy)benzene (1.95 g).

reactant | 1-bromo-4-(4-bromobutoxy)benzene | 3.05 g | BrC1=CC=C(C=C1)OCCCCBr | C10H12Br2O
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 2.43 ml | CO | CH4O
product | 1-bromo-4-(4-methoxybutoxy)benzene | 1.95 g | BrC1=CC=C(C=C1)OCCCCOC | C11H15BrO2
